US06194410B1
0.115 g (5 mmol) of sodium was added to 20 ml of ethylene glycol and this solution was treated with 0.22 g (0.5 mmol) of 3-benzenesulphonyl-5-chloro-7-(4-methyl-piperazin-1-yl)-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine and subsequently stirred at 80° for 1 hr. After cooling to RT the reaction solution was poured on to 70 ml of ice-water and extracted three times with 50 ml of AcOEt. The combined organic phases were dried (MgSO4), filtered and evaporated. Chromatography (SiO2, CH2Cl2/MeOH/NH4OH 110:10:1) of the residue and crystallization from EtOH yielded 0.16 g (69%) of 2-[3-benzenesulphonyl-7-(4-methylpiperazin-1-yl)-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-5-yloxy]-ethanol as colorless crystals, m.p. 187-189°.

reactant | sodium | 5 mmol, 0.115 g | [Na] | Na
reactant | 3-benzenesulphonyl-5-chloro-7-(4-methyl-piperazin-1-yl)-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine | 0.5 mmol, 0.22 g | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N2CCN(CC2)C)Cl)SC | C18H20ClN5O2S2
reactant | ethylene glycol | 20 ml | C(CO)O | C2H6O2
product | 2-[3-benzenesulphonyl-7-(4-methylpiperazin-1-yl)-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-5-yloxy]-ethanol | 0.16 g, 69% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N2CCN(CC2)C)OCCO)SC | C20H25N5O4S2
